US07585881B2
N,4-dimethyl-5-pyridin-3-yl-4H-1,2,4-triazol-3-amine
A mixture of N-amino-N′,N″-dimethyl-guanidine (500 mg, 2.17 mmol) [J. Amer. Chem. Soc.; 1951; p. 1858] and nicotinoyl chloride hydrochloride (385 mg, 2.17 mmol) in pyridine (10 mL) was refluxed o.n. Aq. sat. K2CO3 was added and the mixture extracted with CHCl3. The organic phase was dried and concentrated. The crude product 240 mg (61%) was used in the next step without further purifications.

reactant | N-amino-N′,N″-dimethyl-guanidine | 2.17 mmol, 500 mg | NNC(=NC)NC | C3H10N4
reactant | nicotinoyl chloride hydrochloride | 2.17 mmol, 385 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N,4-dimethyl-5-pyridin-3-yl-4H-1,2,4-triazol-3-amine | CNC1=NN=C(N1C)C=1C=NC=CC1 | C9H11N5
